Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Palpitations, Lightheadedness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old
female with a history of HTN, HLD and paroxysmal SVT who 
presents
as a transfer from ___ for persistent SVT causing
hypotension. 

Patient was in her normal state of health the day of 
presentation
when she experienced palpitations and diaphoresis with 
associated
lightheadedness. Patient states that she has had a history of
"fast heart rate" since her ___ years but that usually
episodes are self-limited and occur for 30 min-an hour at a 
time.
Episodes are not usually associated with lightheadedness. Her
last episode prior to today's event was ___. Patient
states that she similarly felt palpitations and the sensation
that her heart was beating very fast but did not experience
associated lightheadedness. She states that this lasted for 
about
2 hours and then it stopped.  She denies any associated nausea,
chest pain, shortness of breath or any preceding upper
respiratory complaints including cough, fevers, chills, HA. She
does note ___ days of loose stools with some increase in
frequency of stooling for about the last 7 days. After last
episode on ___, it was recommended by patient's PCP that she 
see
a cardiologist in the community but she has not done this yet.

Patient presented to ___ where she was found to have a
narrow complex tachycardia to 160. In the ___ "vagal maneuvers
were attempted and patient had 'successful cardioversion to
normal sinus rhythm'."  Patient had recurrent SVT to 160 with
mild hypotension shortly after this time. She was given 
adenosine
6 mg IV x1 with return to normal sinus rhythm.  This sustained
for ___ minutes and then pt had recurrence of SVT with
hypotension. "Additional adenosine deferred in favor of
increasing AV nodal tone."  Given hypotension, patient was given
IV diltiazem, IV calcium and IV Neo-Synephrine.  This 
combination
was "effective in causing recurrent periods of NSR followed by
SVT."  Patient "loaded" with 30 mg of p.o. diltiazem.  Over a
period of 1.5 hours diltiazem with assistance of Neo-Synephrine
was titrated up to 15 mg/hr eventually resulting in sustained
cardioversion to normal sinus rhythm.  Bedside TTE performed
which showed ? mildly depressed EF.  Given recurrent and
refractory SVT despite high dose of AV nodal blockade, patient
was transferred to ___ for EP evaluation.

In the ___, initial vitals: HR 69 BP 145/80 RR16 97% RA
- EKG: Normal sinus rhythm
- Labs/studies notable for:
Chemistry: Na 143, K 4.1 Cl 112, BUN 13, Cr 0.5
CBC: WBC 8.7 Hgb 12.2 Plt 203 
INR 1.1
Trop: 0.03
- Patient was given: No medications
- Vitals on transfer:

On arrival to the cardiology ward, patient reports the above
history. She denies current symptoms including palpitations,
chest pain, shortness of breath.

 
Past Medical History:
1. CARDIAC RISK FACTORS
- Diabetes
- Hypertension
- Dyslipidemia

2. CARDIAC HISTORY
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: None

3. OTHER PAST MEDICAL HISTORY
- "Mild" COPD, uses Qvar inhaler only in setting of URIs

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.

 
Physical Exam:
VS: Temp 99.0 HR 65 BP 118/70 RR 15 SaO2 94% RA 
GENERAL: NAD, pleasant, AAOx3
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
STUDIES
=======
 
TELEMETRY ___: HRs in the ___, no events   

ECG ___:
sinus rhythm, atrial and ventricular rate of 66 normal axis,
normal intervals, no ST or T wave changes, no delta waves

ECG from ___ ___:
Rates 160s, regular rhythm, normal axis, narrow QRS, QTc 430,
notching of s waves in inferior leads and r wave in avR, pseudo 
r
wave in V1   

Holter Monitor ___:
The patient underwent Holter monitoring, was 
monitored for 23 hours and 59 minutes.  There were total of
88,333 beats.  The average heart rate was 63, ranging between 38
and 158.  Underlying rhythm sinus. Occasional premature
ventricular complexes were noted.  No other significant 
tachyarrhythmias, bradyarrhythmias, or pauses.
CONCLUSION:
1. Underlying sinus rhythm.
2. Average heart rate OF 63 beats per minute.
3. Occasional ectopy including PVCs.
4. No other significant tachyarrhythmias, bradyarrhythmias, or
pauses.

Holter Monitor ___:
1)  Patient was monitored for 24-hours and 0-minutes. There were
a total of 101,
414 beats with an average heart rate of 70-beats/minute.  
Maximum
heart rate 137
beats/minute; minimum heart rate 43-beats/minute.  
2)  Underlying rhythm was sinus rhythm.  
3)  Occasional PACs and PVCs with infrequent ventricular 
couplet.

4)  Several episodes of narrow complex tachycardia, which
occurred spontaneously
, cannot rule out paroxysmal atrial tachycardia.  
5)  Clinical correlation suggested. 
6)  No significant pauses. 

CONCLUSION:  
1)  Underlying sinus rhythm with an average heart rate of
70-beats/minute. 
2)  Occasional PACs - PVC and ventricular bigeminy. 
3)  Several episodes of narrow complex tachycardia, consider
sinus tachycardia versus paroxysmal atrial tachycardia. 

___ Monitor ___:
 FINDINGS:
 1. Underlying rhythm normal sinus; average heart rate 66;
slowest
 heart rate 42 at hour of sleep; highest heart rate 139 at 
12:43;
 sinus tachycardia.
 2. Occasional unifocal PVC's; no couplets, triplets or V-tach.
 3. No SVT, A. fib, bradyarrhythmias or pauses.
 4. No ST-T abnormalities.
 5. No symptoms reported.

TTE ___
2 - D FINDINGS: 
Somewhat technically limited study.  Left ventricle is normal
size, showed preserved systolic function.  Global ejection
fraction of 65%.  The left atrium, right atrium, right ventricle
are normal.  The aortic root shows mild proximal 
dilation.  The aortic valve, tricuspid valve are normal.  The
mitral valves with mild leaflet thickening with borderline
prolapse of posterior mitral valve leaflet.  There is no
significant pericardial effusion or mural thrombus.  
Doppler examination shows trace mitral insufficiency, trace
tricuspid insufficiency.  The aortic root at the valve is 37 mm,
ascending 35 mm.

CONCLUSIONS:
1.  Somewhat technically limited study.
2.  Normal left ventricular size with preserved systolic
function.
3.  Global ejection fraction of 65%.
4.  Mild proximal aortic root dilation.
5.  Borderline mitral valve prolapse with trace mitral
insufficiency.
6.  Trace tricuspid insufficiency. 

Exercise Stress Test ___
1)  Good exercise tolerance stopping at 9-minutes and 30-seconds
secondary to 
fatigue.
2)  Normal heart rate and blood pressure response.
3)  No chest pain.
4)  No ischemia.
5)  Patient had occasional symptomatic unifocal PVC's
post-exercise.  No V-tach.

EKG's - narrow complex tachycardia at rate of 158 with 
retrograde P-waves notable most in III c/w AVNRT.

LABS:

___ 07:55AM BLOOD WBC-8.5 RBC-4.30 Hgb-12.8 Hct-38.4 MCV-89 
MCH-29.8 MCHC-33.3 RDW-12.3 RDWSD-40.1 Plt ___
___ 07:55AM BLOOD Glucose-87 UreaN-12 Creat-0.6 Na-146 
K-4.3 Cl-110* HCO3-23 AnGap-13
___ 01:15AM BLOOD CK-MB-4 cTropnT-0.02*
___ 07:55AM BLOOD Albumin-4.1 Calcium-8.9 Phos-3.1 Mg-2.6

___ TTE
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is normal
left ventricular wall thickness with a normal cavity size. There 
is normal regional and global left
ventricular systolic function. Quantitative biplane left 
ventricular ejection fraction is 73 %. Left
ventricular cardiac index is normal (>2.5 L/min/m2). There is no 
resting left ventricular outflow tract
gradient. Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus is mildly
dilated with normal ascending aorta diameter for gender. The 
aortic arch diameter is normal with a
normal descending aorta diameter. There is no evidence for an 
aortic arch coarctation. The aortic valve
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is no aortic regurgitation.
The mitral valve leaflets are elongated with mild posterior 
leaflet systolic prolapse. There is a latesystolic
jet of mild [1+] mitral regurgitation. The tricuspid valve 
leaflets appear structurally normal.
There is physiologic tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is normal.
There is no pericardial effusion.
IMPRESSION: Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/
global systolic function. Posterior leaflet mitral valve 
prolapse with mild mitral regurgitation.
CLINICAL IMPLICATIONS: Based on the echocardiographic findings 
and ___ ACC/AHA
recommendations, antibiotic prophylaxis is NOT recommended.
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a history of HTN, HLD 
and paroxysmal SVT who presented to ___ for more 
persistent SVT with symptoms of palpitations and 
lightheadedness. At ___, she was treated with vagal 
maneuvers, with brief resolution followed by recurrence. IV 
metoprolol and dilt were not effective. Adenosine was pushed and 
patient went into NSR. However, her SVT again recurred and 
decision was made to transfer to ___ for EP consultation and 
consideration of ablation. In the interim, she went back into 
NSR and was maintained in NSR throughout her hospital course in 
___. EP was consulted and confirmed diagnosis of AVNRT. 
Ablation was deferred to ___ given patient was given metoprolol 
in AM. She was educated on vagal maneuvers and given verapamil 
PO to use PRN in case of symptoms. Metoprolol was discontinued. 

# AVNRT: H/o palpitations since teenage years, no prior w/u or 
cardiologist as patient was not bothered by them due to 
transient nature of symptoms (seconds to ___ min's). Recently 
had become more frequent and longer lasting. Presented to ___ 
___ (see hospital course above). TTE done with ***.
- Planned ablation ___, patient is not to be on AVNB prior to 
procedure.
- Metoprolol discontinued. 
- Verapamil PO PRN and vagal maneuvers PRN for recurrence.

# HTN: Continue lisinopril, stop metoprolol. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Pravastatin 5 mg PO QPM 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Fish Oil (Omega 3) 1000 mg PO Frequency is Unknown 

 
Discharge Medications:
1.  Verapamil 80 mg PO Q8H:PRN Palpitations 
Do not take 24 hr's prior to planned ablation.  
RX *verapamil 80 mg 1 tablet(s) by mouth Q8H:PRN Disp #*30 
Tablet Refills:*1 
2.  Fish Oil (Omega 3) 1000 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Lisinopril 20 mg PO DAILY  
5.  Pravastatin 5 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AVNRT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with an arrhythmia. You were 
seen by our electrophysiology experts and diagnosed with AVNRT 
(AV nodal reentry tachycardia). They scheduled an ablation 
procedure ___ that will cure your arrhythmia. Your metoprolol 
was stopped and replaced with verapamil that should only be 
taken when you feel that you go into an arrhythmia. 

Your blood pressure management will have to be changed by your 
primary care doctor as you should not be on a beta blocker prior 
to the ablation procedure. 
 
Followup Instructions:
___